US09303012B2
a) 7-Hydroxy-5-oxa-2-azonia-spiro[3.4]octane hydrochloride
In analogy to the procedure described in Example 82 a), tert-butyl 7-hydroxy-5-oxa-2-azaspiro[3.4]octane-2-carboxylate (which can be prepared in analogy to tert-butyl 3-hydroxy-1-oxa-7-azaspiro[4.4]nonane-7-carboxylate (CAN 1331825-50-3) starting from 3-oxoazetidine-1-carboxylic acid tert-butyl ester (CAN 398489-26-4) as described in A. I. Moskalenko et al., Russian Journal of Organic Chemistry, 47(7), 1091-1096; 2011) was treated with a 4 M solution of HCl in dioxane to give the title compound as colorless solid which was sufficiently pure to be used in the next step; MS (EI): m/e=130.2 [(M-Cl)H+].

reactant | tert-butyl 7-hydroxy-5-oxa-2-azaspiro[3.4]octane-2-carboxylate | OC1COC2(CN(C2)C(=O)OC(C)(C)C)C1 | C11H19NO4
reactant | tert-butyl 3-hydroxy-1-oxa-7-azaspiro[4.4]nonane-7-carboxylate | OC1COC2(C1)CN(CC2)C(=O)OC(C)(C)C | C12H21NO4
reactant | 3-oxoazetidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C1)=O | C8H13NO3
reactant | HCl | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 7-Hydroxy-5-oxa-2-azonia-spiro[3.4]octane hydrochloride | Cl.OC1COC2(C[NH2+]C2)C1 | InChI=1S/C6H11NO2.ClH/c8-5-1-6(9-2-5)3-7-4-6;/h5,7-8H,1-4H2;1H/p+1
